US07544690B2
To a solution of cis-4-(4-dimethylamino-quinazolin-2-ylamino)-cyclohexanecarboxylic acid amide (18.78 g, 60 mmol) in THF (200 mL) was added a solution of 1 M BH3 in THF (300 mL, 300 mmol). The mixture was stirred at reflux for 2 hr. After cooling the reaction mixture to 0° C., 4 M HCl in EtOAc (100 mL) and MeOH (200 mL) were added. The mixture was concentrated. The mixture was treated with 1 M aqueous sodium hydroxide and the aqueous layer was extracted with CH2Cl2. The organic layer was dried over sodium sulfate, concentrated, and purified by column chromatography (silica gel, 10% 2 M NH3/MeOH in CH2Cl2) to give cis-N2-(4-aminomethyl-cyclohexyl)-N4,N4-dimethyl-quinazoline-2,4-diamine as a white solid (10.6 g, 59%).

reactant | cis-4-(4-dimethylamino-quinazolin-2-ylamino)-cyclohexanecarboxylic acid amide | 60 mmol, 18.78 g | CN(C1=NC(=NC2=CC=CC=C12)N[C@H]1CC[C@H](CC1)C(=O)N)C | C17H23N5O
reactant | HCl | 4 M | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 200 mL | CO | CH4O
solvent | THF | 300 mmol, 300 mL | C1CCOC1 | C4H8O
product | cis-N2-(4-aminomethyl-cyclohexyl)-N4,N4-dimethyl-quinazoline-2,4-diamine | 10.6 g, 59% | NC[C@H]1CC[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N(C)C | C17H25N5
